US06251926B1
A mixture of 5-chloromethyl-3-phenyl-1,2,4-oxadiazole (362 mg), ethyl E-6-(4-hydroxybenzyloxyimino)-6-phenylhexanoate (600 mg), potassium carbonate (467 mg) and N,N-dimethylformamide (7 ml) was stirred at room temperature for 18 hours. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain ethyl E-6-phenyl-6-[4-(3-phenyl-1,2,4-oxadiazol-5-ylmethoxy)benzyloxyimino]hexanoate (789 mg, yield 92%) as a colorless oil from an ethyl acetate-hexane (2:9, v/v)-eluted fraction.

reactant | 5-chloromethyl-3-phenyl-1,2,4-oxadiazole | 362 mg | ClCC1=NC(=NO1)C1=CC=CC=C1 | C9H7ClN2O
reactant | ethyl E-6-(4-hydroxybenzyloxyimino)-6-phenylhexanoate | 600 mg | OC1=CC=C(CO\N=C(/CCCCC(=O)OCC)\C2=CC=CC=C2)C=C1 | C21H25NO4
reactant | potassium carbonate | 467 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | Water | O | H2O
product | ethyl E-6-phenyl-6-[4-(3-phenyl-1,2,4-oxadiazol-5-ylmethoxy)benzyloxyimino]hexanoate | 789 mg, yield 92% | C1(=CC=CC=C1)/C(/CCCCC(=O)OCC)=N/OCC1=CC=C(C=C1)OCC1=NC(=NO1)C1=CC=CC=C1 | C30H31N3O5
